US04727151
Benzoyl chloride 3.0 g (0.021 mol) and 1.69 g (0.021 mol) pyridine were mixed together under nitrogen and allowed to react at room temperature overnite. Benzaldehyde 2.23 g (0.021 mol) was added and the mixture was allowed to stand at ambient temperature for 4 days. Recrystallization from ethanol:ether gave 4.27 g (0.013 mol), 62%, α-benzoyloxybenzylpyridinium chloride, mp 174.5°-176.5°.

reactant | Benzoyl chloride | 0.021 mol, 3.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyridine | 0.021 mol, 1.69 g | N1=CC=CC=C1 | C5H5N
reactant | Benzaldehyde | 0.021 mol, 2.23 g | C(C1=CC=CC=C1)=O | C7H6O
product | α-benzoyloxybenzylpyridinium chloride | [Cl-].C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)[N+]1=CC=CC=C1 | InChI=1S/C19H16NO2.ClH/c21-19(17-12-6-2-7-13-17)22-18(16-10-4-1-5-11-16)20-14-8-3-9-15-20;/h1-15,18H;1H/q+1;/p-1
